US04913838
Thionyl chloride (118 g) was added to the 3-bromo-4-(2'-methylbutyl)benzoic acid (100 g, 0.37 mol) followed by refluxing the mixture for 2 hours and distilling off excess thionyl chloride under reduced pressure to obtain 3-bromo-4-(2'-methylbutyl)benzoic acid chloride (105.1 g).

reactant | Thionyl chloride | 118 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-bromo-4-(2'-methylbutyl)benzoic acid | 0.37 mol, 100 g | BrC=1C=C(C(=O)O)C=CC1CC(CC)C | C12H15BrO2
product | 3-bromo-4-(2'-methylbutyl)benzoic acid chloride | 105.1 g | BrC=1C=C(C(=O)Cl)C=CC1CC(CC)C | C12H14BrClO
